US08895583B2
Step A. tert-butyl 4-(4-bromophenyl)-3-oxopiperazine-1-carboxylate
A mixture of 1-bromo-4-iodo benzene (1.00 g, 3.53 mmol), tert-butyl 3-oxopiperazine-1-carboxylate (0.71 g, 3.53 mmol), N,N′-dimethylethane-1,2-diamine (62 mg, 0.71 mmol), CuI (0.135 g, 0.71 mmol) and K3PO4 (2.25 g, 10.6 mmol) in DMF (50 mL) was stirred at 100° C. for 3 h. The mixture was partitioned between 0.1 N HCl and 2:1 hexanes:EtOAc. The organic layer was washed with saturated aq. NaHCO3 and concentrated. Purification by chromatography on silica gel (20 to 35% EtOAc in hexanes provided the title compound: LCMS m/z 356.9 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.52 (d, J=8.7 Hz, 2 H),7.17 (d, J=8.7 Hz, 2 H),4.23 (s, 2 H), 3.77 (m, 2 H),3.70 (m, 2 H),1.48 (s, 9 H).

reactant | 1-bromo-4-iodo benzene | 3.53 mmol, 1.00 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 3.53 mmol, 0.71 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | N,N′-dimethylethane-1,2-diamine | 0.71 mmol, 62 mg | CNCCNC | C4H12N2
reactant | K3PO4 | 10.6 mmol, 2.25 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.71 mmol, 0.135 g | [Cu]I
product | tert-butyl 4-(4-bromophenyl)-3-oxopiperazine-1-carboxylate | BrC1=CC=C(C=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C15H19BrN2O3
